US04304770
Phosphorus oxychloride (1.0 g) was added at a time to a suspension of 2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetic acid (syn isomer) (1.4 g) in dry tetrahydrofuran (14 ml) at 2° C. and the mixture was stirred for 15 minutes at 2° to 4° C. Trimethylsilylacetamide (1.0 g) was added dropwise thereto and the resulting mixture was stirred for 20 minutes at 2° to 6° C. Phosphorus oxychloride (1.0 g) was added thereto and the mixture was stirred for 20 minutes. Dry dimethylformamide (0.5 g) was added thereto at a time at 4° to 6° C. and the mixture was stirred for 1 hour to give a clear solution. On the other hand, trimethylsilylacetamide (5.3 g) was added to a stirred suspension of 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.8 g) in dry ethyl acetate (27 ml) and the solution was stirred for 30 minutes at 40° C. To this solution was added the above-obtained tetrahydrofuran solution at a time at -30° C., and the resulting mixture was stirred for 1 hour at -5° to -20° C. To the reaction mixture were added water (30 ml) and ethyl acetate (20 ml). An organic layer was separated and extracted with an aqueous solution of sodium bicarbonate. The extract was adjusted to pH 3.0 with 10% hydrochloric acid. Precipitates were collected by filtration, washed with water to give 7-[2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (0.85 g).

reactant | Phosphorus oxychloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetic acid | 1.4 g | C(C1=CC=CC=C1)ON=C(C(=O)O)C=1N=C(SC1)N | C12H11N3O3S
reactant | Trimethylsilylacetamide | 1.0 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | Phosphorus oxychloride | 1.0 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | trimethylsilylacetamide | 5.3 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 7-amino-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.8 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O | C12H14N6O3S2
solvent | tetrahydrofuran | 14 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 27 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 30 ml | O | H2O
solvent | dimethylformamide | 0.5 g | CN(C=O)C | C3H7NO
product | 7-[2-benzyloxyimino-2-(2-aminothiazol-4-yl)acetamido]-3-(1-allyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.85 g | C(C1=CC=CC=C1)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC=C)C(=O)O)C1=O)C=1N=C(SC1)N | C24H23N9O5S3
